Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / ciprofloxacin / dogs and cats
 
Attending: ___
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms ___ is a ___, PMH significant for hypothryoidism, 
Hypertension, asthma, who presents with chest pain after a pure 
mechanical fall at home. She is an independent woman who was in 
her normal state of health prior to the incident. She describes 
tripping on herself when she was pivoting her foot and landed on 
her back. She did not have headstrike and denies loss of 
consciousness. Furthermore, she denies preceding symptoms 
including chest pain, lightheadedness, visual changes, or any 
post ictal type symptoms. She was able to ambulate after fall. 
Currently she denies any symptoms except for the sternal chest 
pain; no fevers, chills, nausea, vomiting, abdominal pain, 
dysuria, or neurologic symptoms. 
 
Past Medical History:
Asthma
Hypothyroid
Hypertension 
Fibroids
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION (___)
VITAL SIGNS: 97.9 65 140/89 18 91% RA 

GENERAL: AAOx3 NAD; hard of hearing
HEENT: NCAT, EOMI, PERRLA, No scleral icterus, mucosa moist, no 
LAD
CARDIOVASCULAR: R/R/R, S1/S2, NO M/R/G
PULMONARY: CTA ___, No crackles or rhonchi
GASTROINTESTINAL: S/NT/ND. No guarding, rebound, or peritoneal 
signs. +BSx4 
INCISION/WOUNDS: Well healed midline wound
EXT/MS/SKIN: No C/C/E; Feet warm. Good perfusion.
NEUROLOGICAL: Reflexes, strength, and sensation grossly intact
CNII-XII: WNL

PHYSICAL EXAM ON DISCHARGE (___)
VITAL SIGNS: 98 80 143/70  20 97% RA 

GENERAL: AAOx3 NAD
HEENT: NCAT, EOMI, PERRLA, No scleral icterus, mucosa moist, no 
LAD, has trouble holding her head up, needs to hold it with her 
hand
CARDIOVASCULAR: R/R/R, S1/S2, NO M/R/G, mild anterior chest wall 
pain
PULMONARY: CTA ___, No crackles or rhonchi
GASTROINTESTINAL: S/NT/ND. No guarding, rebound, or peritoneal 
signs. +BSx4 
INCISION/WOUNDS: Well healed midline wound
EXT/MS/SKIN: No C/C/E; Feet warm. Good perfusion.
NEUROLOGICAL: Reflexes, strength, and sensation grossly intact
CNII-XII: WNL
 
Pertinent Results:
LAB TESTS

___ 06:21PM BLOOD WBC-7.6 RBC-4.58 Hgb-12.4 Hct-39.5 MCV-86 
MCH-27.1 MCHC-31.4* RDW-13.9 RDWSD-43.0 Plt ___
___ 05:15AM BLOOD WBC-8.4 RBC-4.64 Hgb-12.6 Hct-40.3 MCV-87 
MCH-27.2 MCHC-31.3* RDW-13.7 RDWSD-43.4 Plt ___
___ 04:40AM BLOOD WBC-7.7 RBC-4.51 Hgb-12.1 Hct-39.3 MCV-87 
MCH-26.8 MCHC-30.8* RDW-13.6 RDWSD-43.5 Plt ___
___ 06:21PM BLOOD Neuts-77* Bands-0 Lymphs-12* Monos-9 
Eos-1 Baso-0 Atyps-1* ___ Myelos-0 AbsNeut-5.85 
AbsLymp-0.99* AbsMono-0.68 AbsEos-0.08 AbsBaso-0.00*
___ 06:21PM BLOOD ___ PTT-32.4 ___
___ 05:15AM BLOOD Plt ___
___ 04:40AM BLOOD Plt ___
___ 06:21PM BLOOD Glucose-138* UreaN-12 Creat-0.4 Na-135 
K-3.8 Cl-98 HCO3-26 AnGap-15
___ 05:15AM BLOOD Glucose-87 UreaN-12 Creat-0.4 Na-137 
K-4.0 Cl-99 HCO3-25 AnGap-17
___ 04:40AM BLOOD Glucose-96 UreaN-12 Creat-0.4 Na-137 
K-4.1 Cl-101 HCO3-22 AnGap-18
___ 05:05AM BLOOD Glucose-87 UreaN-13 Creat-0.4 Na-135 
K-3.7 Cl-98 HCO3-25 AnGap-16
___ 05:15AM BLOOD Calcium-9.2 Phos-3.8 Mg-1.9
___ 05:05AM BLOOD Calcium-9.1 Phos-3.4 Mg-1.9

IMAGING 

CXR (___)
IMPRESSION:   
No acute cardiopulmonary process identified.  Mild cardiomegaly. 


CT CHEST W/O CONTRAST (___)
IMPRESSION:  
1. Compression fractures at T2 and T3 with greater than 50% loss 
of height, age indeterminate although new from ___. 
2. Healed fractures of the sternum and multiple left-sided ribs. 

3. Moderate centrilobular emphysema. 
4. 1.4 x 1.2 cm incompletely characterized left adrenal nodule.  
This could be further assessed with an MRI or adrenal protocol 
CT, on a nonurgent basis. 
 
C-SPINE XRAY (___)
IMPRESSION:    
C7 vertebral body is not adequately visualized on the lateral 
film.  There is minimal anterolisthesis of C3 on C4 and C4 on 
C5, likely due to degenerative facet arthropathy.  Vertebral 
body heights are otherwise maintained.  There is no prevertebral 
soft tissue swelling.   
The compression fractures of T2 and T3 are not adequately 
visualized on these x-rays.  Please correlate with recent CT of 
the chest dated ___.   
A cervical collar is noted in place.  
Visualized portions of the lungs are clear bilaterally.  A 
left-sided chest wall pacemaker is noted. 

 
Brief Hospital Course:
The patient presented to Emergency Department on ___. Upon 
arrival to ED the patient was evaluated for anterior chest pain. 
Several imaging studies were done including CXR, CT scan of 
chest showing compression fractures at T2 and T3 with greater 
than 50% loss of height, age indeterminate, no evidence of acute 
fracture and healed fractures of the sternum and multiple 
left-sided ribs. While on the floor the patient was evaluated by 
orthopaedic spine surgery that recommended bed rest for one 
night and wearing a c-spine collar and pain control. A c-spine 
xray was taken with the collar on and it showed C7 vertebral 
body not adequately visualized on the lateral film, minimal 
anterolisthesis of C3 on C4 and C4 on C5, likely due to 
degenerative facet arthropathy, vertebral body heights 
maintained, no prevertebral soft tissue swelling and compression 
fractures of T2 and T3 not adequately visualized on these 
x-rays. Physical therapy evaluated the patient and recommended 
going to a rehab ___ further care. 
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with Tylenol and 
ketrolac and then transitioned to only Tylenol. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: Patient was always on a regular diet and with 
bathroom privileges. 
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and 
venodyne boots were used during this stay and was encouraged to 
get up and ambulate as early as possible.
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
Albuterol sulfate
Amlodipine
Fluticasone-Salmeterol
Levothyroxine
Tiotropium bromide
Triamcinolone acetonide

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
RX *acetaminophen [8 HOUR PAIN RELIEVER] 650 mg 1 tablet(s) by 
mouth every eight (8) hours Disp #*50 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth every twelve 
(12) hours Disp #*14 Capsule Refills:*0 
3.  TraMADol 25 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every six 
(6) hours Disp #*20 Tablet Refills:*0 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Compression fractures at T2 and T3 with greater than 50% loss of 
height, age indeterminate
Healed fractures of the sternum and multiple left-sided ribs
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ and 
were observed for pain management. You are recovering well and 
are now ready for discharge. Please follow the instructions 
below to continue your recovery:

* Your injury caused a 2 vertebral compresison fractures which 
can cause severe pain and subsequently cause you to take shallow 
breaths because of the pain.

* Wear your C-spine collar when you feel comfortable, ideally 
this should be used at all times, except for sleeping. 
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures. In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___